US07977489B2
Preparation of ′5-[1-(4-Benzyloxy-3-methoxy-phenyl)-methylidene]-2-(4-methyl-piperazin-1-yl)-thiazol-4-one
To a N2-purged flask was added ′5-[1-(4-Hydroxy-3-methoxy-phenyl)-methylidene]-2-(4-methyl-piperazin-1-yl)thiazol-4-one (57 mg, 0.17 mmol), MeCN (5 mL), benzyl chloride (30 μL, 1.5 equiv), and K2CO3 (70 mg, 3 equiv). The reaction mixture was stirred at 70° C. for 6 h. The reaction mixture was diluted with EtOAc (100 mL), and the excess K2CO3 was removed by filtration through a fritted glass funnel. The product solution was washed with aq NH4Cl (50 mL×2) and H2O (50 mL). The organic phase was dried over Na2SO4, filtered, and concentrated under reduced pressure. The crude product was chromatographed (SiO2, DCM/MeOH 100:0 to 92:8) to provide pure title compound (20 mg, 28% yield). 1H NMR (DMSO-d6) δ 7.66 (1H, s), 7.44-7.52 (5H, m), 7.29 (1H, s), 7.23-724 (2H, m), 5.22 (2H, s), 3.96 (2H, t, J=4.6 Hz), 3.89 (3H, s), 3.70 (2H, t, J=4.6 Hz), 2.48-2.52 (4H, m), 2.29 (3H, s); MS (ESI) 424 (MH+).

reactant | 5-[1-(4-Hydroxy-3-methoxy-phenyl)-methylidene]-2-(4-methyl-piperazin-1-yl)thiazol-4-one | 0.17 mmol, 57 mg | OC1=C(C=C(C=C1)C=C1C(N=C(S1)N1CCN(CC1)C)=O)OC | C16H19N3O3S
reactant | MeCN | 5 mL | CC#N | C2H3N
reactant | benzyl chloride | 30 μL, 1.5 equiv | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | K2CO3 | 70 mg, 3 equiv | C(=O)([O-])[O-].[K+].[K+]
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | 5-[1-(4-Benzyloxy-3-methoxy-phenyl)-methylidene]-2-(4-methyl-piperazin-1-yl)-thiazol-4-one | 20 mg, 28% yield | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C=C1C(N=C(S1)N1CCN(CC1)C)=O)OC | C23H25N3O3S
